US08133864B2
In the same way as example 1, from 2-furoyl-L-phenylalanyl-glycyl-glycine (23.7 mg, 0.063 mmol) and (S)-2-amino-5-(1-piperidinyl)pentanoic acid N-[2-(1-piperidinyl)ethyl]amide (16.7 mg, 0.054 mmol) synthesized in the same way as reference example 1, (S)-2-[(2-furoyl)-β-cyclohexyl-L-alanyl-glycyl-glycyl-amino]-5-(1-piperidinyl)pentanoic acid [2-(1-piperidinyl)ethyl]amide (20.8 mg) was obtained as a colorless oily material (yield 58%).

reactant | 2-furoyl-L-phenylalanyl-glycyl-glycine | 0.063 mmol, 23.7 mg | O1C(=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)NCC(=O)O | C18H19N3O6
reactant | (S)-2-amino-5-(1-piperidinyl)pentanoic acid N-[2-(1-piperidinyl)ethyl]amide | 0.054 mmol, 16.7 mg | N1(CCCCC1)CCNC([C@H](CCCN1CCCCC1)N)=O | C17H34N4O
product | (S)-2-[(2-furoyl)-β-cyclohexyl-L-alanyl-glycyl-glycyl-amino]-5-(1-piperidinyl)pentanoic acid [2-(1-piperidinyl)ethyl]amide | 20.8 mg | N1(CCCCC1)CCNC([C@H](CCCN1CCCCC1)NC(CNC(CNC([C@@H](NC(=O)C=1OC=CC1)CC1CCCCC1)=O)=O)=O)=O | C35H57N7O6
